* Small trigger circuit

               
                                          
*                                          The semiconductor components are:
*| Designator | Manufacturer's part Number | Sandia Part Number 
*| :--------: | :------------------------- | :----------------- 
*|     D1     |    SMAJ400A                |    2A2217-000      
*|     D2     |    MMSZ5268BT1G            |    N/A             
*|     D3     |    MMSD4148T1G             |    2A2213-000      
*|     D4     |    MMSZ5242BT1G            |    2A2218-100      
*|     Q3     |    C3M0065090J             |    N/A           


* 
* select library for type of simulation
* normal    - for normal environment
*
.lib VendorModels.lib normal

XD1 TRIG 0 MMSZ5268BT1G  

RLOAD TRIG 0 1e6
RTAIL TRIG NTAIL 3.3k
CTAIL NTAIL 0 C=470p

IDR 0 TRIG PWL FILE "export_current_pulse.txt"

.tran 1e-9 4.65e-7

.print tran V(TRIG) I(IDR)

.options timeint method=gear ;reltol=1e-4

.end












